US04520193
The Z form of the syn isomer of 2-benzhydryloxycarbonyl-3-{2-[(2-methyl-1,3,4-thiadiazol-5-yl)-thio]-prop-1-en-1-yl}-7-[2-methoxyimino-2-(2-tritylaminothiazol-4-yl)-acetamido]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene (0.76 g) is dissolved in formic acid (8 cc). The solution is heated to 50° C. and distilled water (4 cc) is added dropwise in the course of 10 minutes. The mixture is stirred for 30 minutes at 50° C., distilled water (4 cc) is then added, the mixture is cooled and filtered and the solution is concentrated to dryness under reduced pressure (1 mm Hg; 0.13 kPa) at 40° C. Ethanol (40 cc) is added and evaporated off under reduced pressure (1 mm Hg; 0.13 kPa) at 30° C., and this operation is repeated a further 2 times. The residue is taken up in ethanol (10 cc), the solution is filtered, the cake is washed with diethyl ether (20 cc), the filtrate is dried over sodium sulphate and the solvent is evaporated off under reduced pressure (1 mm Hg; 0.13 kPa) at 20° C. The Z form of the syn isomer of 7-[2-(2-aminothiazol-4-yl)-2-methoxyiminoacetamido]-2-carboxy-3-{2-[(2-methyl-1,3,4-thiadiazol-5-yl)-thio]-prop-1-en-1-yl}-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene (60 mg) is thus isolated in the form of a yellow powder.

reactant | 2-benzhydryloxycarbonyl-3-{2-[(2-methyl-1,3,4-thiadiazol-5-yl)-thio]-prop-1-en-1-yl}-7-[2-methoxyimino-2-(2-tritylaminothiazol-4-yl)-acetamido]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene | 0.76 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)C=1N2C(C(C2SCC1C=C(C)SC1=NN=C(S1)C)NC(C(C=1N=C(SC1)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=NOC)=O)=O | C51H43N7O5S4
solvent | formic acid | 8 cc | C(=O)O | CH2O2
product | 7-[2-(2-aminothiazol-4-yl)-2-methoxyiminoacetamido]-2-carboxy-3-{2-[(2-methyl-1,3,4-thiadiazol-5-yl)-thio]-prop-1-en-1-yl}-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene | 60 mg | NC=1SC=C(N1)C(C(=O)NC1C2SCC(=C(N2C1=O)C(=O)O)C=C(C)SC1=NN=C(S1)C)=NOC | C19H19N7O5S4
